US05610141
c) (S,S)-2,7-Diamino-(Z)-oct-4-ene-1,8-dioic acid dihydrochloride
To a mixture of (S,S)-2,7-diamino-(Z)-oct-4-ene-1,8-dioic acid dimethyl ester (0.6 g, 1.3 mmol), conc HCl (1 ml) and dioxane (10 ml) were added and the solution was refluxed for 2 hours, and then evaporated.

reactant | (S,S)-2,7-diamino-(Z)-oct-4-ene-1,8-dioic acid dimethyl ester | 1.3 mmol, 0.6 g | COC([C@H](C\C=C/C[C@@H](C(=O)OC)N)N)=O | C10H18N2O4
reactant | HCl | 1 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S,S)-2,7-Diamino-(Z)-oct-4-ene-1,8-dioic acid dihydrochloride | Cl.Cl.N[C@H](C(=O)O)C\C=C/C[C@@H](C(=O)O)N | InChI=1S/C8H14N2O4.2ClH/c9-5(7(11)12)3-1-2-4-6(10)8(13)14;;/h1-2,5-6H,3-4,9-10H2,(H,11,12)(H,13,14);2*1H/b2-1-;;/t5-,6-;;/m0../s1
